Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins / gluten
 
Attending: ___.
 
Chief Complaint:
"I feel very depressed and I don't feel safe...I
don't want to live anymore."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Briefly, Ms. ___ is a ___ year old female with PPH of
depression, PTSD (per patient), and polysubstance abuse 
(opiates,
benzos, cannabis) and PMH of GERD, Malt lymphoma (per patient,
treated ___ years ago in ___, s/p ___ in ___ with
multiple rib/vertebral fractures was referred to ED from ___ and CPDV at ___ for depression and suicidal
ideation in the context of multiple stressors (sister murder ___
year ago, car accident ___, victim of domestic violence,
heroin addiction). Patient reports that she attempted to "detox"
herself 16 days ago and did take one oxycodone pill yesterday.
Patient also reports recently living in ___ with
boyfriend who is active substance abuser, violent, and 
threatened
to kill himself if patient left him.  

On interview, patient endorses hopelessness, suicidal thoughts,
insomnia (sleeping only 3 hours a night), weight loss ___ lbs
in last year), decreased energy, and anxiety which have been
worsening over the past several weeks. Patient reports feeling
desperate and stated "I'm gonna do something if I don't get
help." Patient denies current SI but reports suicidal thoughts
earlier in the day.    
  
Psych ROS: endorses depression and anxiety symptoms as listed
above. Denies SI/HI/AVH. Denies symptoms of mania or psychosis 
at
present. 
   
ED Course/Medication admins:
Patient was in good behavioral control in the ED, did not 
require
physical or chemical restraint and was medically cleared. 
___ 19:48 PO/NG ClonazePAM .5 mg 
   
ROS: All systems reviewed and were negative except for back 
pain.

 
Past Medical History:
Past psychiatric history: Per ___ note (___),
confirmed with patient and updated as relevant:
Hospitalizations: age ___ @ ___ in ___ after a suicide attempt after she attempted to hang
herself and cut herself.
Current treaters and treatment:former psychiatrist ___ @
Behavioral ___ in ___, has not seen for over a year
stopped seeing a therapist has not seen in over year
Medication and ECT trials:lithium,lamictal,prazosin,klonopin and 

Self-injury:hx of cutting and has attempted suicide by hanging 
in
the past in the context of substance use and withdrawal sx's.
Harm to others:denies
Access to weapons:denies access to guns
   
Past medical history: Per ___ note (___), confirmed
with patient and updated as relevant:
* PCP ___ , ___, ___
* GERD
* Reports she has a hx of "Malt Lymphoma" ___ years ago and was
  treated in ___
* s/p ___ ___ resulting in multiple rib fractures

 
Social History:
Substance use history: Per ___ note (___), 
confirmed
with patient and updated as relevant:
Alcohol: denies
Illicits: hx of snorting heroin, denies IVDA and cannabis 
reports
she detoxed herself from Heroin 16 days ago.
In personal interview, Ms. ___ indicated that opiate use was 
escalating within last 6 months (after the ___ injuries).
Tob: pos for cig
Caffeine: 5- 6 cups of coffee a day

Forensic history: Per ___ note (___), confirmed 
with
patient and updated as relevant:
Arrests:Hx of a "summons " to court for "accidentally 
discharging
a firearm" ___. Reports it was her b.f.'s and the police
confiscated it.
Convictions and jail terms:denies
Current status (pending charges, probation, parole)has a
probation officer in ___ and would not reveal her name

___ and Social ___: ___
Family History:
Family psychiatric history: Per ___ note (___),
confirmed with patient and updated as relevant:
Mother with depression
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS: T:98  BP; 110/62   HR:82  RR: 18  Pain ___ O2sat 98% on RA

General: Middle-aged female in NAD. Thin. Appears stated age.
sweating. 
 HEENT: Normocephalic, atraumatic. PERRL, EOMI. 
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves: II-XII grossly intact, no facial asymmetry, 
EOMI, clear speech
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor.  
 Coordination: Normal on finger to nose test. 
 Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
 Wakefulness/alertness: awake and alert
 Attention: intact to interview
 Orientation: oriented to person, time, place, situation
 Memory: intact to recent and past history
 Fund of knowledge: consistent with education
 Speech: normal rate, volume, and tone
 Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 Appearance: appears stated age, well-groomed, wearing hospital
gown and blanket, tattoos on both arms, poor dentition 
 Behavior: Calm, cooperative, appropriate eye contact, no
psychomotor agitation or retardation
 Mood and Affect: "depressed" / congruent with mood, dysphoric
 Thought Process: linear, coherent, goal-oriented. No LOA.
 Thought Content: endorses passive SI, denies intent or plan,
denies HI/AH/VH, no evidence of delusions or paranoia
 Judgment and Insight: poor/poor

 
Pertinent Results:
___ 03:59PM URINE  UCG-NEGATIVE
___ 03:59PM URINE  bnzodzpn-POS* barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-POS* mthdone-NEG
___ 03:49PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY: 
On admission, the patient initially signed a conditional 
voluntary agreement and then signed a 3-day notice on the ___ 
day of admission.  She was placed on placed on 5 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.
 
2. PSYCHIATRIC:
#) BPAD I: Patient was sent to ___ ED after being referred 
from the ___ ___ and ___ after endorsing 
suicidal ideation in the setting of numerous stressors, 
including homicide of sister, recent ___, domestic violence, and 
substance abuse. Patient initially was agreeable to admission, 
but the next day was requesting discharge, stating she was no 
longer feeling that she wanted to die and that her love for her 
son will keep her going. She stated she has "faith in God" and 
has long term goals for the future include returning to work as 
a ___ at some point. She endorsed not having taken any 
medications for 4 months and was thus restarted on her home 
latuda, lamicital, and prazosin (with dose modifications. She 
was not given lithium as patient endorsed side effects nor 
klonopin as outpatient psychiatrist in ___ requested 
she not be given benzodiazepines.
Latuda 60mg po with dinner, Prazosin 2mg po qHS, and Lamictal 
50mg po qHS were started. Ms. ___ took Hydroxyzine 25mg po q6hrs 
PRN anxiety/insomnia. She tolerated her meds, she reported 
benefit from them and wanted to continue them.

The patient began attending groups and reported reduction in 
symptoms. She denied suicide throughout her stay (except for 
initially on admission).
During the individual meetings, we discussed w Ms. ___ coping 
strategies to address sx's of anxiety. She expressed interest in 
learning about Mind-Body techniques. She tried progressive 
muscle relaxation and guided imagery. She found guided imagery 
helpful. E.g., she was able to experience reduction of anxiety 
from ___ to ___ on scale from 0-no anxiety to 10-the worst 
anxiety.

On ___, family meeting was held with patient, her mother 
and treatment team. We exchanged impressions and tx 
recommendations. Pt and her mother had opportunity to ask 
questions (answered). Pt's mother also knows about resources 
(e.g., she new the phone number of ___ Emergency Services 
Team).
She was discharged to mother's house with partial program lined 
up along with follow-up with psychiatry and social work.

#) PTSD: Patient endorsed history of multiple traumas and 
associated flashbacks/nightmares. She was restarted on prazosin 
2 mg qhs.

3. SUBSTANCE USE DISORDERS:
#) Opiate use disorder: Patient endorsed having struggled with 
heroin (never IV) for the last year and notes her usage had 
increased over the last four months following car accident where 
she broke several bones. She endorsed wanting to get clean and 
stated she had not used in 16 days at the time of admission. 
Utox on admission was positive for oxycodone,which the patient 
stated she took the day prior to admission. Patient displayed 
symptoms of rhinorrhea, anxiety, insomnia, and psychomotor 
agitation which could be seen as withdrawal symptoms. Patient 
declined any comfort measure medications but did utilize 
vistaril and trazodone.
 
4. MEDICAL
#) Hyperlipidemia: Patient was restarted on atorvastatin 20 mg.
 
5. PSYCHOSOCIAL
#) GROUPS/MILIEU: 
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. The patient was initially 
isolative in the milieu but eventually began attending groups 
and socializing with select peers in the dayroom.
 
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
The patient's psychiatrist Dr. ___ at ___ in 
___ as contacted.  Per Dr. ___ has 
occurred intermittently throughout the time he has known her. 
She was last profoundly depressed in ___ following the 
death of her sister. She had suicidal ideation at some time in 
___, but denied any plan. He notes patient has 
substance abuse history of cocaine, marijuana, ecstasy, and 
asked that the patient not be prescribed benzos.
 
#) INTERVENTIONS
- Medications: Lamictal 50 mg qhs (titrate up to 200 mg), Latuda 
60 mg with dinner, Prazosin 2 mg qhs, Vistaril 25 mg q6h prn
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare:

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.
 
RISK ASSESSMENT
On presentation, the patient is at an elevated risk of self harm 
given a number of risk factors, including recent substance use 
with chronic abuse history, prior suicide and self harm 
attempts, unstable living situation, violent relationship, 
medication & appointment noncompliance, social isolation, poor 
coping skills, unemployment. Her protective factors include 
sense of responsibility to son, future-oriented (talking about 
job), spirituality, supportive mother who she may be able to 
live with (w/ children in the home). The modifiable risk factors 
were addressed during her admission, as patient was restarted on 
medications, reconnected with outpatient providers and partial 
hospital program, and encouraged to work on coping skills. Of 
note, she continued to denied SI continuously since the day 
following her admission. At the time of discharge, the patient 
was not seen as having an acutely elevated risk of self-harm nor 
danger to others.
 
Our Prognosis of this patient is fair.

 
Medications on Admission:
Patient states she had not been taking any medications for four 
months.
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Atorvastatin 20 mg PO QHS  
3.  HydrOXYzine 25 mg PO Q6H:PRN anxiety 
RX *hydroxyzine HCl 25 mg one tablet by mouth every 6 hours Disp 
#*30 Tablet Refills:*0 
4.  LamoTRIgine 50 mg PO QHS 
RX *lamotrigine [Lamictal] 25 mg two tablet(s) by mouth at 
bedtime Disp #*30 Tablet Refills:*0 
5.  Latuda (lurasidone) 60 mg oral DINNER 
RX *lurasidone [Latuda] 60 mg one tablet(s) by mouth at bedtime 
Disp #*15 Tablet Refills:*0 
6.  Nicotine Polacrilex 1 STCK PO Q2H:PRN nicotine craving 
RX *nicotine (polacrilex) 2 mg one stick every 2 hours Disp #*40 
Gum Refills:*0 
7.  Prazosin 2 mg PO QHS 
RX *prazosin [Minipress] 2 mg one capsule(s) by mouth at bedtime 
Disp #*15 Capsule Refills:*0 
8.  Vitamin D ___ UNIT PO 2X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
BPAD I
PTSD
Opiate use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
On the discharge day, Ms. ___ was alert, friendly, no sx's of any 
medical distress, unremarkable motor activity, unremarkable 
steady gait. She was casually dressed and well groomed. She 
maintained good eye contact. Her speech was spontaneous, fluent 
in normal rate and prosody. TP was linear and well organizied. 
No sx's of psychosis. She talked about positive plans for 
future. She reported that her mood is "better". She also 
reported decrease of anxiety. She placed level of anxiety at 3 
on scale from 0-none to 10-the worst anxiety. She clearly denied 
S/H/I. She reported that she has "goal for the life". She 
reports that she is committed to maintaining sobriety. she 
reported that she needs to be "around for (her) son and family". 
Her affect was friendly, reactive, appropriate to topics of 
conversation. Her insight and judgment appeared to be grossly 
intact. Though, pt has hx of impulsivity as evidenced by her 
history.

 
Discharge Instructions:
You were hospitalized at ___ for suicidal ideation. 
 
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Optional Instructions:
We strongly recommend engaging in AA/NA/SMART recovery meetings 
for ongoing help with sobriety. Here is a website with links to 
meetings near your area:
___

 
Followup Instructions:
___